US03963717
To a solution of 15 g. of 2,3-dihydro-7-benzofuranamine in 150 ml. of methanol is added 8.5 ml. of isopropyl iodide and 13.4 ml. of triethylamine. The solution is refluxed for 45 hours and then concentrated in vacuo. The resulting oil is extracted several times with diethyl ether, the ether extracted combined filtered through Celite, and the ether removed in vacuo to obtain an oil of N-isopropyl-2,3-dihydro-7-benzofuranamine.

reactant | 2,3-dihydro-7-benzofuranamine | O1CCC2=C1C(=CC=C2)N | C8H9NO
reactant | methanol | CO | CH4O
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-isopropyl-2,3-dihydro-7-benzofuranamine | C(C)(C)NC1=CC=CC=2CCOC21 | C11H15NO
